US05936097
160 g of 11-aminoundecanoic acid, 2 liters of dioxane, 1.3 liters of distilled water, 208 g of sodium carbonate and 173 g of di-tert-butyl dicarbonate are successively introduced into a 4-liter three-necked flask equipped with a mechanical stirrer and a reflux condenser. The reaction mixture is heated at boiling point for 16 hours. A clear solution is thus obtained. After cooling to 20° C., the reaction mixture is poured onto 800 g of ice and then acidified to pH=3-4 by addition of 4N hydrochloric acid. A white precipitate is thus obtained which is separated by filtration, washed with 300 cm3 of water and dried at 20° C. under reduced pressure (20 mm of mercury, 2.7 kPa). 232 g of N-(tert-butoxycarbonyl)-11-aminoundecanoic acid are thus obtained, with a yield of 95%, the melting point of which (68° C.) is in agreement with that which is given in J. Org. Chem., 41, 1350 (1976).

reactant | 11-aminoundecanoic acid | 160 g | NCCCCCCCCCCC(=O)O | C11H23NO2
reactant | sodium carbonate | 208 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 173 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 1.3 liters | O | H2O
solvent | dioxane | 2 liters | O1CCOCC1 | C4H8O2
product | N-(tert-butoxycarbonyl)-11-aminoundecanoic acid | 232 g, yield of 95% | C(C)(C)(C)OC(=O)NCCCCCCCCCCC(=O)O | C16H31NO4
